US05801170
4-Borono-3-methylbenzoic acid
A stirred solution of 4-bromo-3-methylbenzoic acid (5.0 g, 0.020 mole) in dry THF (250 ml) at -78° C. under argon was treated with 1.6M n-butyllithium in hexane (36 ml, 0.057 mole). After 15 minutes, the reaction mixture was treated with triisopropylborate (13.4 ml, 0.050 mole), then stirred at -78° C. for 1 h, followed by room temp. for 19 h. The mixture was treated with water (25 ml), then concentrated in vacuo and the residue chromatographed on silica gel eluting with 10% methanol/dichloromethane to afford the title compound as a white solid (2.63 g, 67%).

reactant | 4-bromo-3-methylbenzoic acid | 0.020 mole, 5.0 g | BrC1=C(C=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | hexane | 0.057 mole, 36 ml | CCCCCC | C6H14
reactant | triisopropylborate | 0.050 mole, 13.4 ml | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | water | 25 ml | O | H2O
product | 4-Borono-3-methylbenzoic acid | 2.63 g, 67% | B(O)(O)C1=C(C=C(C(=O)O)C=C1)C | C8H9BO4
